US04544747
One hundred milliliter of hexamethylphosphoramide is added to a mixture of 5 g of 1-ethyl-7-chloro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid and 8.5 g of anhydrous piperazine, and the mixture is heated at 140° C. for 8 hours. After heating, the solvent is removed under reduced pressure and, after 500 ml of water is added to the resultant residue, the mixture is adjusted to pH 4 with glacial acetic acid and the insolubles are filtered out. The filtrate is concentrated under reduced pressure, resulting in a light yellow, solid substance. Recrystallization from isopropanol-water (2:1) mixture yields 3.2 g of 1-ethyl-7-(1-piperazinyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride as the white, needle-like crystals. m.p. not less than 300° C.

reactant | 1-ethyl-7-chloro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 5 g | C(C)N1C=C(C(C2=CC=C(C(=C12)C)Cl)=O)C(=O)O | C13H12ClNO3
reactant | piperazine | 8.5 g | N1CCNCC1 | C4H10N2
solvent | hexamethylphosphoramide | One hundred milliliter | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 1-ethyl-7-(1-piperazinyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride | 3.2 g | Cl.C(C)N1C=C(C(C2=CC=C(C(=C12)C)N1CCNCC1)=O)C(=O)O | InChI=1S/C17H21N3O3.ClH/c1-3-19-10-13(17(22)23)16(21)12-4-5-14(11(2)15(12)19)20-8-6-18-7-9-20;/h4-5,10,18H,3,6-9H2,1-2H3,(H,22,23);1H
